US07951805B2
SYNTHESIS OF 6-[4-(4-FLUOROBENZOYL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)METHYLAMIDE
To a mixture of 6-[4-(4-fluorobenzoyl)piperidin-1-yl]pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (0.075 g, 0.189 mmol) and sodium hydride (0.009 g, 60% in mineral oil) in THF (15 mL) was added methyl iodide (0.134 g, 0.945 mmol) at 0° C. The reaction mixture was stirred at ambient temperature overnight, then concentrated in vacuo. The residue was diluted with water and then extracted with ethyl acetate. The organic layer was dried, concentrated and purified by column chromatography to yield the title compound in 52% yield (0.040 g). 1H NMR (300 MHz, CDCl3) δ 8.0-7.96 (m, 2H), 7.69-7.6 (m, 1H), 7.18-7.07 (m, 2H), 6.98-6.94 (m, 1H), 5.54-4.45 (m, 2H), 3.8-3.73 (m, 1H), 3.65-3.47 (m, 2H), 3.32-3.07 (m, 4H), 2.06-1.7 (m, 5H), 1.6-1.47 (m, 2H), 0.79-0.67 (m, 1H), 0.52-0.41 (m, 1H), 0.36-0.28 (m, 1H), 0.12-0.07 (m, 1H), 0.1-−0.06 (m, 1H). 13C NMR (75 MHz, CDCl3) δ 200.1, 167.5, 167.2, 166.3, 164.1, 158.8, 148.6, 148.5, 132.1, 132.07, 131.0, 130.9, 129.2, 128.9, 116.1, 115.8, 112.3, 112.2, 51.6, 49.2, 44.5, 43.2, 38.2, 34.4, 33.6, 32.0, 27.9, 8.6, 8.3, 4.3, 4.26. MS (ES+) m/z 411 (M+1).

reactant | 6-[4-(4-fluorobenzoyl)piperidin-1-yl]pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 0.189 mmol, 0.075 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C22H25FN4O2
reactant | sodium hydride | 0.009 g | [H-].[Na+]
reactant | methyl iodide | 0.945 mmol, 0.134 g | CI | CH3I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 6-[4-(4-FLUOROBENZOYL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)METHYLAMIDE | 52% yield | C1(CC1)CCN(C(=O)C=1N=NC(=CC1)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O)C | C23H27FN4O2
